US06528543B1
A solution of {3-[3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionyl]-ureido}-acetic acid (30 mg, 0.08 mmol) in methanol (5 mL) was treated with concentrated sulfuric acid (4 drops). The reaction was heated to 80° C. for 8 h. At this time, the reaction was cooled to 25° C. and diluted with water (10 mL). This solution was extracted with ethyl acetate (3×20 mL). The organics were washed with a saturated aqueous sodium bicarbonate solution (1×20 mL), a saturated aqueous sodium chloride solution (1×20 mL) and water (1×10 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded {3-[3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionyl]-ureido}-acetic acid methyl ester (21 mg, 68%) as a white solid:mp 134.5-136.6° C.; EI-HRMS m/e calcd for C18H22Cl2N2O4 (M+) 400.0957, found 400.0970.

reactant | {3-[3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionyl]-ureido}-acetic acid | 0.08 mmol, 30 mg | C1(CCCC1)CC(C(=O)NC(NCC(=O)O)=O)C1=CC(=C(C=C1)Cl)Cl | C17H20Cl2N2O4
reactant | methanol | 5 mL | CO | CH4O
catalyst | sulfuric acid | 4 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 mL | O | H2O
product | {3-[3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionyl]-ureido}-acetic acid methyl ester | 21 mg, 68% | COC(CNC(=O)NC(C(CC1CCCC1)C1=CC(=C(C=C1)Cl)Cl)=O)=O | C18H22Cl2N2O4
